US07214673B2
8-Fluoro-2-isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
By using a method similar to the method of Example 532, using 2-(4-fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile (0.559 g, (1.87 mmol), tin (II) chloride(1.06 g, 5.60 mmol) to obtain (0.422 g, 1.38 mmol, 74% yield) of the title compound as a yellow amorphous solid: Mass Spectrum (m/e): 270(M+1).

reactant | 2-(4-fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C(C)C)[N+](=O)[O-] | C16H14FN3O2
reactant | tin (II) chloride | 1.87 mmol, 0.559 g | [Sn](Cl)Cl
product | 8-Fluoro-2-isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.38 mmol, 0.422 g, 74% yield | Cl.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N)C1 | InChI=1S/C16H16FN3.ClH/c1-9(2)10-3-5-13-12(7-10)16(18)20-15-8-11(17)4-6-14(15)19-13;/h3-9,19H,1-2H3,(H2,18,20);1H
